US06900353B2
Preparation of N-{2-[4-(1-Hydroxy-2-{[(methylethyl)sulfonyl]amino}cyclopentyl)phenoxy]ethyl}acetamide
In a 100 mL 3 neck flask fitted with a stirrer and thermometer, acetyl chloride (63 mg, 1.2 eq) is added dropwise to {2-[4-(2-aminoethoxy)phenyl]-2-hydroxycyclopentyl}[(methylethyl)sulfonyl]amine (230 mg, 0.67 mmol) and triethylamine (102 mg, 1.5 eq) in CH2Cl2 (40 mL) while stirring at 0° C. under a nitrogen atmosphere. The reaction is allowed to warm to room temperature and stirred for 2 hours. The reaction is then diluted with CH2Cl2 (50 mL) and the organic layer is washed two times with H2O, dried over Na2SO4, filtered, and concentrated under reduced vacuum to yield the product. This material is purified via silica gel chromatography employing the Chromatotron® and using 2000 micron rotor while eluting with a suitable eluent, such as hexanes/ethyl acetate to provide the title compound.

reactant | acetyl chloride | 63 mg, 1.2 eq | C(C)(=O)Cl | C2H3ClO
reactant | {2-[4-(2-aminoethoxy)phenyl]-2-hydroxycyclopentyl}[(methylethyl)sulfonyl]amine | 0.67 mmol, 230 mg | NCCOC1=CC=C(C=C1)C1(C(CCC1)NS(=O)(=O)C(C)C)O | C16H26N2O4S
reactant | triethylamine | 102 mg, 1.5 eq | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-{2-[4-(1-Hydroxy-2-{[(methylethyl)sulfonyl]amino}cyclopentyl)phenoxy]ethyl}acetamide | OC1(C(CCC1)NS(=O)(=O)C(C)C)C1=CC=C(OCCNC(C)=O)C=C1 | C18H28N2O5S
